US06541580B1
Isobutene—Isobornyl Acrylate Graft Copolymer by ATRP
The following reagents were weighed into a glass tube under ambient temperature: 0.3 g(3×10−7 mol) brominated p-methylstyrene-isobutene elastomer (Exxon) (Mn=108380, Mw/Mn=2.31), 12 mg (8.37×10−2 mmol) of CuBr, 1.00 mL (0.986 g, 5 mmol) of isobornyl acrylate, and 60 mg (0.175 mmol) 4,4′-di-(5-nonyl)-2,2′-bipyridine. Two “freeze-pump-thaw” cycles were performed on the contents of the tube to insure that oxygen was removed from the polymerization solution. The tube was sealed under vacuum and placed in an oil bath thermostated at 90 C. After 2 h the tube was removed from the oil bath and cooled to 0° C. to quench the polymerization. Conversion of the monomer was measured using GC; the molecular weight and polydispersity were measured by GPC. Conversion of isobornyl acrylate was 30%, Mn=141000, Mw/Mn=2.61. 1H NMR spectrum showed that the graft copolymer contained 30% isobornyl acrylate. By DSC measurement one Tg was found at 2° C.

reactant | isobornyl acrylate | 5 mmol, 1.00 mL, 0.986 g | C[C@]12CC[C@@H](C1(C)C)CC2C(=C)C(=O)[O-]
reactant | 4,4′-di-(5-nonyl)-2,2′-bipyridine | 0.175 mmol, 60 mg | CCCCC(CCCC)C1=CC(=NC=C1)C1=NC=CC(=C1)C(CCCC)CCCC | C28H44N2
reactant | oxygen | O=O | O2
product | Isobutene Isobornyl Acrylate | C=C(C)C.C[C@]12CC[C@@H](C1(C)C)CC2C(=C)C(=O)[O-] | InChI=1S/C13H20O2.C4H8/c1-8(11(14)15)10-7-9-5-6-13(10,4)12(9,2)3;1-4(2)3/h9-10H,1,5-7H2,2-4H3,(H,14,15);1H2,2-3H3/p-1/t9-,10?,13-;/m1./s1
